US08222246B2
6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-([S]-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide
To a solution of 6-[3-(4-chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (100 mg, 0.28 mmol) and L-2,2,2-trifluoro-1-(methyl)ethylamine (32 mg, 0.28 mmol) in THF (10 mL) were added at 0° C., 1-hydroxybenzotriazole hydrate (43.3 mg, 0.28 mmol), N-ethyldiisopropylamine (121 μL, 0.69 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (54.2 mg, 0.28 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was removed by distillation. The remaining material was purified by chromatography (silica, ethyl acetate:heptane=2:8 to 1:0, then silica, dichloromethane:methanol=99:1 to 95:5) to afford the title compound (75 mg, 60%) as a white solid. MS: m/e=454.1 [M−H]−.

reactant | 6-[3-(4-chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.28 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13ClN2O5
reactant | L-2,2,2-trifluoro-1-(methyl)ethylamine | 0.28 mmol, 32 mg | CC(C(F)(F)F)N | C3H6F3N
reactant | 1-hydroxybenzotriazole hydrate | 0.28 mmol, 43.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 0.69 mmol, 121 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.28 mmol, 54.2 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-([S]-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide | 75 mg, 60% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)N[C@H](C(F)(F)F)C)C=C1)CO | C20H17ClF3N3O4
